US04956359
3-(4-Chlorophenoxy)-1-(diphenylmethyl)azetidine
A stirred slurry of 41.3 g (1.03 mole) of 60% sodium hydride (in mineral oil) in 500 ml of dry dimethylformamide under nitrogen atmosphere was heated to 50° C. and 22.5 g (0.94 mole) of 1-diphenylmethyl-3-azetidinol in 700 ml of dry dimethylformamide was added dropwise at a rate which maintained the temperature between 70°-80° C. and allowed a gentle evolution of hydrogen. After the addition was complete, the reaction mixture was stirred for 2 hr at 90° C., then 125 g (0.94 mole) of 1-chloro-4-fluorobenzene was added dropwise. The reaction mixture was stirred at 90° C. under nitrogen for 24 hr, then stirred an additional 24 hr while the reaction mixture cooled to ambient temperature. The reaction mixture was poured into 6 liter of ice water and the solid which formed was collected by filtration to yield 271 g of wet crude product. A sample was recrystallized for elemental analysis from ethanol, yielding a fine tan crystalline product in 82.4% yield, m.p. 113°-114° C.

reactant | sodium hydride | 1.03 mole, 41.3 g | [H-].[Na+]
reactant | 1-diphenylmethyl-3-azetidinol | 0.94 mole, 22.5 g | C1(=CC=CC=C1)C(N1CC(C1)O)C1=CC=CC=C1 | C16H17NO
reactant | hydrogen | [H][H] | H2
reactant | 1-chloro-4-fluorobenzene | 0.94 mole, 125 g | ClC1=CC=C(C=C1)F | C6H4ClF
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
product | 3-(4-Chlorophenoxy)-1-(diphenylmethyl)azetidine | 271 g, 82.4% yield | ClC1=CC=C(OC2CN(C2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C22H20ClNO
